US06911561B2
A solution of bis(trifluoroacetyl) peroxide in trifluoroacetic acid was prepared by addition of H2O2 (95%, 1.61 g, 45.0 mmol H2O2) dropwise into a well-stirred solution of potassium trifluoroacetate (6.8 mg, 0.045 mmol) in freshly distilled bis(trifluoroacetic) anhydride (21 g, 100 mmol) at 0° C. A 31% (mol) solution of bis(trifluoroacetyl) peroxide in the trifluoroacetic acid was obtained.

reactant | H2O2 | 45.0 mmol, 1.61 g | OO | H2O2
reactant | potassium trifluoroacetate | 0.045 mmol, 6.8 mg | FC(C(=O)[O-])(F)F.[K+]
reactant | bis(trifluoroacetic) anhydride | 100 mmol, 21 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | bis(trifluoroacetyl) peroxide | FC(C(=O)OOC(C(F)(F)F)=O)(F)F | C4F6O4
